US05254590
STAGE B: 4-(9-Octadecenamido)-2,3,5-trimethylphenol, cis isomer
A suspension of carbethoxy oleate (prepared by reacting at -10° C., in 15 minutes, under a nitrogen atmosphere, 8 mmols of oleic acid with 8 mmols of ethyl chloroformate in the presence of 8 mmols of triethylamine in 20 ml of anhydrous tetrahydrofuran) is added to the preceding solution at 5° C. under a nitrogen atmosphere.

reactant | carbethoxy oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC(=O)OCC | C21H38O4
reactant | oleic acid | 8 mmols | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | ethyl chloroformate | 8 mmols | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 8 mmols | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(9-Octadecenamido)-2,3,5-trimethylphenol | C(CCCCCCCC=CCCCCCCCC)(=O)NC1=C(C(=C(C=C1C)O)C)C | C27H45NO2
